US09062028B2
Step D. 4-(2,3-Dimethylphenoxy)-1-(5-(1-(3-(2-hydroxyethoxy)benzyl)-1H-pyrazol-4-yl)-3,4-dihydroquinolin-1(2H)-yl)butan-1-one
The title compound was prepared using a procedure analogous to methyl 4-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)picolinate except that methyl 4-bromopicolinate was replaced with 2-(3-((4-bromo-1H-pyrazol-1-yl)methyl)phenoxy)ethyl acetate. LCMS, [M+H]+=540.4.

reactant | methyl 4-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)picolinate | CC1=C(OCCCC(=O)N2CCCC3=C(C=CC=C23)C2=CC(=NC=C2)C(=O)OC)C=CC=C1C | C28H30N2O4
reactant | methyl 4-bromopicolinate | BrC1=CC(=NC=C1)C(=O)OC | C7H6BrNO2
reactant | 2-(3-((4-bromo-1H-pyrazol-1-yl)methyl)phenoxy)ethyl acetate | C(C)(=O)OCCOC1=CC(=CC=C1)CN1N=CC(=C1)Br | C14H15BrN2O3
product | 4-(2,3-Dimethylphenoxy)-1-(5-(1-(3-(2-hydroxyethoxy)benzyl)-1H-pyrazol-4-yl)-3,4-dihydroquinolin-1(2H)-yl)butan-1-one | CC1=C(OCCCC(=O)N2CCCC3=C(C=CC=C23)C=2C=NN(C2)CC2=CC(=CC=C2)OCCO)C=CC=C1C | C33H37N3O4
